US06610723B2
[2-(3,4-Dichloro-phenyl)-pyridine-4-yl]-methanol
The title compound, MS: m/e=252.0 ([M-H]) was obtained as a light yellow solid (53% yield) by the reaction of 2-(3,4-dichloro-phenyl)-isonicotinic acid methyl ester with lithium aluminum hydride in THF at 20° C. for 1 h followed by chromatography [silica, elution with CH2Cl2/(2M NH3 MeOH) 19:1]

reactant | 2-(3,4-dichloro-phenyl)-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)C1=CC(=C(C=C1)Cl)Cl)=O | C13H9Cl2NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | [2-(3,4-Dichloro-phenyl)-pyridine-4-yl]-methanol | ClC=1C=C(C=CC1Cl)C1=NC=CC(=C1)CO | C12H9Cl2NO
